US08110575B2
N-(dicyclopropylmethyl)-N-methyl-6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo-[2,3-b]pyridin]-5-ylamino)pyrimidine-4-carboxamide
1.2 equivalents (12 μmol) of the amine derivative, 3.4 equivalents DIPEA (34 μmol) and 1.20 equivalents (12 μmol) TBTU were added to 4.1 mg (10 μmol) 6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)pyrimidine-4-carboxylic acid hydrochloride in 0.32 mL DMF and the mixture was shaken overnight at RT. The reaction mixture was evaporated down at 60° C. in a vacuum centrifuge. The following compounds were able to be synthesised analogously to this working method:

reactant | DIPEA | 34 μmol, 3.4 equivalents | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 12 μmol, 1.20 equivalents | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)pyrimidine-4-carboxylic acid hydrochloride | 10 μmol, 4.1 mg | Cl.O=C1C2(C=3C(=NC=CC3)N1)CC1=CC=C(C=C1C2)NC2=CC(=NC=N2)C(=O)O
reactant | DMF | 0.32 mL | CN(C)C=O | C3H7NO
product | N-(dicyclopropylmethyl)-N-methyl-6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo-[2,3-b]pyridin]-5-ylamino)pyrimidine-4-carboxamide | C1(CC1)C(N(C(=O)C1=NC=NC(=C1)NC=1C=C2CC3(C(NC4=NC=CC=C43)=O)CC2=CC1)C)C1CC1 | C28H28N6O2
